US04636245
9.6 g (0.07 mol) of zinc chloride are first added to 5 g (0.035 mol) of 6,6-dimethyltetrahydrothiopyran-2,4-dione in 100 ml of pyridine, after which 3.7 g (0.03 mol) of butyryl chloride are added dropwise. When the addition is complete, the mixture is heated to the reflux temperature for 4 hours, and the cooled reaction mixture is poured into 200 ml of semi-concentrated hydrochloric acid, the mixture is extracted several times with dichloromethane, the combined organic phases are dried over magnesium sulphate, and the solvent is removed in vacuo. 2.9 g (36.6% of theory) of 6,6-dimethyl-3-butyryltetrahydrothiopyran-2,4-dione are obtained as an oil.

reactant | 6,6-dimethyltetrahydrothiopyran-2,4-dione | 0.035 mol, 5 g | CC1(CC(CC(S1)=O)=O)C | C7H10O2S
reactant | butyryl chloride | 0.03 mol, 3.7 g | C(CCC)(=O)Cl | C4H7ClO
reactant | hydrochloric acid | 200 ml | Cl | ClH
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
catalyst | zinc chloride | 0.07 mol, 9.6 g | [Cl-].[Zn+2].[Cl-]
product | 6,6-dimethyl-3-butyryltetrahydrothiopyran-2,4-dione | 2.9 g, 36.6% | CC1(CC(C(C(S1)=O)C(CCC)=O)=O)C | C11H16O3S
